US04464530
To 200 ml of acetone were added 10.0 g of D-galactose and 175 mg of hydriodic acid (57%) and the mixture was refluxed with stirring in a water bath at 60° C. for 8 hours. During this reaction, the refluxing solvent was dried with 20 g of Molecular Sieves 3A interposed between the reaction vessel and the cooling jacket. After completion of the reaction, a small amount of pyridine was added. The acetone was then distilled off under reduced pressure and the residue was dissolved in benzene, washed with aqueous sodium bicarbonate and water and dried over anhydrous magnesium sulfate. The benzene was distilled off and the residue was further distilled under reduced pressure, whereby 8.5 g (59%) of 1,2:3,4-di-O-isopropylidene-α-D-galactopyranose was obtained as a fraction boiling at 129°-133° C./0.2 mmHg.

reactant | acetone | 200 ml | CC(=O)C | C3H6O
reactant | D-galactose | 10.0 g | O=C[C@H](O)[C@@H](O)[C@@H](O)[C@H](O)CO | C6H12O6
reactant | hydriodic acid | 175 mg | I | HI
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 1,2:3,4-di-O-isopropylidene-α-D-galactopyranose | 8.5 g, 59% | CC1(O[C@H]2[C@H](O[C@H]3[C@@H]([C@H]2O1)OC(O3)(C)C)CO)C | C12H20O6
